* Z:\mnt\design.r\spice\examples\3014.asc
XU1 OUT N002 MP_01 0 N001 MP_02 MP_03 N001 LT3014
V1 N001 0 PWL(0 0 1 10)
R1 OUT N002 3.92Meg
R2 N002 0 1.27Meg
Rload OUT 0 250
C1 OUT 0 .47µ
.tran 1
.lib LT3014.lib
.backanno
.end
